US04244953
p-Nitrophenylacetic acid is treated with Vilsmeier reagent to give 3-(dimethylamino)-2-(4-nitrophenyl)-2-propenal. This product is treated with cyanoacetiamide and sodium methoxide to give 1,2-dihydro-5-(4-nitrophenyl)-2-oxo-3-pyridinecarbonitrile. The preceding product is hydrolyzed with 1:1 concentrated hydrochloric acid-acetic acid to give 1,2-dihydro-5-(4-nitrophenyl)-2-oxo-3-pyridinecarboxylic acid. The above product is boiled with quinoline to give 5-(4-nitrophenyl)-2(1H)-pyridone. When the preceding product is treated with phosphorus oxychloride, 2-chloro-5-(4-nitrophenyl)pyridine is obtained. This product is treated with hydrazine to give 2-hydrazino-5-(4-nitrophenyl)pyridine. The above product is treated with ethyl orthoacetate to give the product of the Example.

reactant | p-Nitrophenylacetic acid | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
product | 3-(dimethylamino)-2-(4-nitrophenyl)-2-propenal | CN(C=C(C=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C11H12N2O3
